US09107916B2
B. 2-[5-hydroxy-3-(1-phenylethyl)pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared in 40% yield from 2-hydrazinylpyridine-4-carbonitrile (PREPARATION 2) and ethyl 3-oxo-4-phenylpentanoate according to the procedure for the preparation of Example 158, part A.

reactant | 2-hydrazinylpyridine-4-carbonitrile | N(N)C1=NC=CC(=C1)C#N | C6H6N4
reactant | ethyl 3-oxo-4-phenylpentanoate | O=C(CC(=O)OCC)C(C)C1=CC=CC=C1 | C13H16O3
product | 2-[5-hydroxy-3-(1-phenylethyl)pyrazol-1-yl]pyridine-4-carbonitrile | 40% yield | OC1=CC(=NN1C1=NC=CC(=C1)C#N)C(C)C1=CC=CC=C1 | C17H14N4O
